US07629340B2
(S)-2-(4′-Amino-biphenyl-3-ylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester (Compound 6086)
A solution of (S)-2-(3-Bromo-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester (201 mg, 0.5 mmol), 6-4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine (1 eq., 108 mg), Pd[P(Ph)3]4 (5 mol %, 20 mg), in methanol (6 mL), NaHCO3 (sat. aq., 900 uL) and DMF (1.5 mL) was degassed and heated to 70° C. overnight in a sealed vial. The reaction was cooled, filtered and the solvents removed. The resulting mixture was redissolved in 5 ml of 90% DMF, 10% water with 0.1% TFA and purified by reverse phase HPLC to give the products. Yield 26 mg. MS: 440.3 (M+H). H1-NMR (DMSO-d6): δ (ppm) 10.1 (s, 1H), 7.9 (m, 1H), 7.5-7.0 (m, 12H), 5.0 (m, 2H), 4.4 (m, 1H), 3.5 (m, 1H), 2.2 (m, 1H), 1.9 (m, 3H).

reactant | (S)-2-(3-Bromo-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester | 0.5 mmol, 201 mg | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)C(NC1=CC(=CC=C1)Br)=O | C19H19BrN2O3
reactant | NaHCO3 | 900 uL | C(=O)(O)[O-].[Na+]
reactant | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | methanol | 6 mL | CO | CH4O
product | (S)-2-(4′-Amino-biphenyl-3-ylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)C(NC=1C=C(C=CC1)C1=CC=C(C=C1)N)=O | C25H25N3O3
